US07858796B2
(281) 3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-5-[5-(1-pyrrolidinylmethyl)-3-thienyl]-1H-indole-7-carboxamide
To 5-(5-formyl-3-thienyl)-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide (40 mg, 0.08 mmol) in a mixture of dichloromethane (1.25 mL) and methanol (0.5 mL), pyrrolidine (0.07 mL, 0.8 mmol) and 2 drops of acetic acid were added. After the reaction mixture was stirred at room temperature for 6 hours, NaBH4 (30.26 mg, 0.8 mmol) was added. Then the reaction mixture was stirred at room temperature for 30 minutes. All the solvent was evaporated and purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) to give title compound (6.5 mg, 15%).

reactant | 5-(5-formyl-3-thienyl)-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 0.08 mmol, 40 mg | C(=O)C1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCOC | C23H27N3O5S2
reactant | pyrrolidine | 0.8 mmol, 0.07 mL | N1CCCC1 | C4H9N
reactant | NaBH4 | 0.8 mmol, 30.26 mg | [BH4-].[Na+]
solvent | dichloromethane | 1.25 mL | ClCCl | CH2Cl2
solvent | MeOH | 0.5 mL | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-5-[5-(1-pyrrolidinylmethyl)-3-thienyl]-1H-indole-7-carboxamide | 6.5 mg, 15% | COCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)CN1CCCC1)C(=O)N | C27H36N4O4S2
